US04863959
A mixture of 11 g of Raney nickel, 8.2 g of 4'-cyano-2',3'-difluoroacetanilide and 125 mL of 95% HCOOH is stirred and heated 30 minutes at 80°-85° C. The hot solution is filtered through diatomaceous earth and the cake washed with 3×100 mL of CH2CL2. The filtrate and wash are evaporated in vacuo to furnish a white solid. Excess saturated NaHCO3 is added to neutralize the residual HCOOH and the product is extracted with 3×400 mL of CH2Cl2. The CH2Cl2 extract is washed with saturated NaHCO3 and H2O (100 mL each), dried with Na2SO4 and evaporated to furnish 7.7 g (92.5% yield) of 2',3'-difluoro-4'-formylacetanilide, m.p. 154° C. The mass spectrum shows an ion at 200.

reactant | 4'-cyano-2',3'-difluoroacetanilide | 8.2 g | C(#N)C1=C(C(=C(NC(C)=O)C=C1)F)F | C9H6F2N2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Raney nickel | 11 g | [Ni] | Ni
solvent | HCOOH | C(=O)O | CH2O2
solvent | HCOOH | 125 mL | C(=O)O | CH2O2
product | 2',3'-difluoro-4'-formylacetanilide | 7.7 g, 92.5% yield | FC1=C(NC(C)=O)C=CC(=C1F)C=O | C9H7F2NO2
